US05972971
2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(1H-1,2,4-triazol-1yl)-propan-2-ol
Particularly preferred mixtures comprise as azoles, in addition to hexaconazole, tebuconazole, propiconazole, cycproconazole and/or 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-1H-(1,2,4-triazol-1-yl)-propan-2-ol, preferably in a ratio by weight to hexaconazole of 1:9 to 9:1.

reactant | hexaconazole | CCCCC(CN1C=NC=N1)(C=2C=CC(=CC2Cl)Cl)O | C14H17Cl2N3O
reactant | tebuconazole | CC(C)(C)C(CCC=1C=CC(=CC1)Cl)(CN2C=NC=N2)O | C16H22ClN3O
reactant | propiconazole | CCCC1COC(O1)(CN2C=NC=N2)C=3C=CC(=CC3Cl)Cl | C15H17Cl2N3O2
product | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(1H-1,2,4-triazol-1yl)-propan-2-ol | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1)O | C14H15Cl2N3O
